US09233098B2
3. Preparation of N-[5-(bromomethyl)pyridin-2-yl]-2-naphthamide
N-(5-methylpyridin-2-yl)-2-naphthamide (1.31 g, 5.0 mmol), N-bromosuccinimide (0.89 g, 5.0 mmol) and benzoyl peroxide (0.12 g, 0.5 mmol) were dissolved in carbon tetrachloride (50 mL), and reacted under protection of nitrogen for 16 hours. It was filtered while hot, and the filter cake was washed with carbon tetrachloride. The filtrate was concentrated, chromatographed on a silica gel column (petroleum ether:ethyl acetate=5:1) to obtain a white solid 0.66 g, at a yield of 38.6%.

reactant | N-(5-methylpyridin-2-yl)-2-naphthamide | 5.0 mmol, 1.31 g | CC=1C=CC(=NC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H14N2O
reactant | N-bromosuccinimide | 5.0 mmol, 0.89 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 mmol, 0.12 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[5-(bromomethyl)pyridin-2-yl]-2-naphthamide | 0.66 g, yield of 38.6% | BrCC=1C=CC(=NC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H13BrN2O
